US05001125
A mixture of 3.9 parts of 3,6-dichloro-4,5-dimethylpyridazine, 4.2 parts of 1-(2,3-dimethylphenyl)piperazine and 2.94 parts of potassium carbonate was stirred and heated for 4 hours in an oil bath at 190° C. After cooling, the mixture was taken up in water and trichloromethane. The organic layer was separated, dried, filtered and evaporated. The residue was crystallized from 2-propanol. The product was filtered off and dried, yielding 2 parts (30%) of 3-chloro-6-[4-(2,3-dimethylphenyl)-1-piperazinyl]-4,5-dimethylpyridazine; mp. 194.5° C. (compound 217).

reactant | 3,6-dichloro-4,5-dimethylpyridazine | ClC=1N=NC(=C(C1C)C)Cl | C6H6Cl2N2
reactant | 1-(2,3-dimethylphenyl)piperazine | CC1=C(C=CC=C1C)N1CCNCC1 | C12H18N2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
solvent | trichloromethane | ClC(Cl)Cl | CHCl3
product | 3-chloro-6-[4-(2,3-dimethylphenyl)-1-piperazinyl]-4,5-dimethylpyridazine | 30% | ClC=1N=NC(=C(C1C)C)N1CCN(CC1)C1=C(C(=CC=C1)C)C | C18H23ClN4
